data/rdb19/train.csv
rxn,smiles,ea
2912,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])([C:20]([H:21])[H:22])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])=[C:20]([H:21])[H:22])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([H:11])([H:12])[H:28])([H:8])([H:9])[H:10].[O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13],66.05930936394725
1413,[C:10]([C:11]([C:12]([H:13])[C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[C:12]([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])([H:13])[C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])[H:6],15.664397555519828
1713,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([H:5])[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],65.00833298516227
3017,[C:16]([H:17])([H:18])[H:19].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])([H:12])[C:16]([H:17])([H:18])[H:19],64.42566549079493
2991,[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([C:19]([H:20])[H:21])[C:22](=[O:23])[O:24][H:31])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])([H:12])[C:19]([C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:22](=[O:23])[O:24][H:31])([H:20])[H:21],64.87808915547794
2154,[C:11]([C:12]([C:13]([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:23])([H:6])[H:7],34.61287025810452
3760,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22][H:27])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:28])([H:10])[H:11])([H:7])([H:8])[H:9],28.78267087455606
3716,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:18]([C:17]([H:25])[H:26])([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:10])[H:11])([H:7])([H:8])[H:9],18.81807139638113
4321,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][C:18]([C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],30.113737466512248
1797,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],21.30935210105963
1449,[C:10]([C:11]([C:12]([C:13]([H:22])([H:23])[H:24])[C:14](=[O:15])[O:16][H:25])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([C:13]([H:22])([H:23])[H:24])[C:14](=[O:15])[O:16][H:25])[H:6],19.94126504653832
1508,[C:10]([C:11]([C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:23])([H:20])([H:21])[H:22].[H:9][H:24].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],59.33486848982284
